US08217029B2
101.i) 4-(6-Methoxy-[1,5]naphthyridin-4-yl)-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
A glass vial was charged with 1-Boc-3-oxo-piperazine (commercial; 503 mg, 2.5 mmol), CuI (40 mg, 0.21 mmol) and K3PO4 (888 mg, 4.2 mmol), evacuated and backfilled with argon. Trans-1,2-diaminocyclohexane (24 mg, 0.21 mmol), 8-bromo-2-methoxy-[1,5]naphthyridine (500 mg, 2.1 mmol) and dioxane (2 mL) were added under a flow of argon. The tube was sealed and the mixture was heated at 110° C. for 18 h. The resulting suspension was filtered through a pad of SiO2 (EA). The filtrate was concentrated under reduced pressure and the residue was chromatographed over SiO2 (DCM-MeOH—NH4OH 1000-50-4) to afford the title intermediate as a pale yellow oil (87 mg, 12%).

reactant | 1-Boc-3-oxo-piperazine | 2.5 mmol, 503 mg | C(=O)(OC(C)(C)C)N1CC(NCC1)=O | C9H16N2O3
reactant | K3PO4 | 4.2 mmol, 888 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Trans-1,2-diaminocyclohexane | 0.21 mmol, 24 mg | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | 2.1 mmol, 500 mg | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
catalyst | CuI | 0.21 mmol, 40 mg | [Cu]I
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-(6-Methoxy-[1,5]naphthyridin-4-yl)-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 87 mg, 12% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=NC2=CC=C(N=C12)OC)=O | C18H22N4O4
